US07923560B2
Triethylamine (12.8 mL, 92.0 mmol) and 1,2-diamino-2-methylpropane (5.29 mL, 50.6 mmol) were added sequentially to a solution of 7-benzyloxy-4-chloro-3-nitroquinoline (14.5 g, 46.0 mmol) in dichloromethane (400 mL). The reaction mixture was stirred overnight and then concentrated under reduced pressure. The residue was partitioned between water (200 mL) and dichloromethane (300 mL). The organic layer was washed with brine, dried over sodium sulfate, and then concentrated under reduced pressure to provide crude product as a brown solid. The crude product was passed through a layer of silica gel (eluting sequentially with chloroform and 96:4 chloroform:methanol) to provide 12.4 g of (2-amino-2-methylpropyl)(7-benzyloxy-3-nitroquinolin-4-yl)amine as a yellow solid.

reactant | Triethylamine | 92.0 mmol, 12.8 mL | C(C)N(CC)CC | C6H15N
reactant | 1,2-diamino-2-methylpropane | 50.6 mmol, 5.29 mL | NCC(C)(C)N | C4H12N2
reactant | 7-benzyloxy-4-chloro-3-nitroquinoline | 46.0 mmol, 14.5 g | C(C1=CC=CC=C1)OC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])Cl | C16H11ClN2O3
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | (2-amino-2-methylpropyl)(7-benzyloxy-3-nitroquinolin-4-yl)amine | 12.4 g | NC(CNC1=C(C=NC2=CC(=CC=C12)OCC1=CC=CC=C1)[N+](=O)[O-])(C)C | C20H22N4O3
